US05952362
A warm solution of 8.23 g of (3-chloro-5-nitro-phenoxy)-acetonitrile in 150 ml of ethyl acetate was treated with 34.9 g of tin (II) chloride dihydrate and the solution was heated at 70° C. for 2 hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate, basified with saturated sodium bicarbonate solution, extracted twice with ethyl acetate, dried (MgSO4), and evaporated to dryness. The residue was purified by silica gel chromatography using ethyl acetate/hexane (35:65) as solvent and obtained 4.42 g of (3-amino-5-chloro-phenoxy)-acetonitrile as a cream solid.

reactant | (3-chloro-5-nitro-phenoxy)-acetonitrile | 8.23 g | ClC=1C=C(OCC#N)C=C(C1)[N+](=O)[O-] | C8H5ClN2O3
reactant | tin (II) chloride dihydrate | 34.9 g | O.O.[Sn](Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | (3-amino-5-chloro-phenoxy)-acetonitrile | 4.42 g | NC=1C=C(OCC#N)C=C(C1)Cl | C8H7ClN2O
